US07465726B2
2,2,2-Trifluoro-1-{4-[4-(1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridin-1-yl}-ethanone
(1H-Indazol-5-yl)-[6-(1,2,3,6-tetrahydro-pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine hydrochloride (150 mg, 0.34 mmol), Hunigs base (239 μL, 1.37 mmol) and trifluoroacetic anhydride (96 mL, 0.68 mmol) were combined in DMF (6 mL) and stirred overnight. Trifluoroacetic anhydride (96 mL, 0.68 mmol) was added and the mixture was stirred a further 2 h. The DMF was removed in vacuo and the residue was partioned between dichloromethane and 1 M HCl (aq). The organic layer was separated and dried over anhydrous magnesium sulphate, filtered and evaporated in vacuo. Purification on silica gel by elution with ethyl acetate yielded the title compound as a yellow solid. 1H NMR (400 MHz, DMSO-d6): δ=2.58-2.64 (brm, 2H), 3.78-3.86 (m, 2H), 4.27 & 4.32 (2s, rotamers, 2H), 6.38 & 6.40 (2s, rotamers, 1H), 6.76 & 6.80 (2s, rotamers, 1H), 7.50 (d, J=8.8 Hz, 1H), 7.63 (d, J=8.8 Hz, 1H), 8.03 (s, 1H), 8.24 (s, 1H), 8.32-8.35 (m, 1H), 9.34 (s, 1H), 11.95 (s, 1H). MS (ES+): m/z 428.4 (100).

reactant | (1H-Indazol-5-yl)-[6-(1,2,3,6-tetrahydro-pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine hydrochloride | 0.34 mmol, 150 mg | Cl.N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)NC(=C2)C=2CCNCC2
reactant | Hunigs base | 1.37 mmol, 239 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | trifluoroacetic anhydride | 0.68 mmol, 96 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Trifluoroacetic anhydride | 0.68 mmol, 96 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 2,2,2-Trifluoro-1-{4-[4-(1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridin-1-yl}-ethanone | FC(C(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC=2C=C3C=NNC3=CC2)N1)(F)F | C20H16F3N7O
